US07208495B2
1-(3-hydroxy-2,2,4,6,7-pentamethyl-3-(4-methylphenyl)-2,3-dihydro-1-benzofuran-5-yl)-4-(4-methoxyphenyl)piperazine
n-Butyllithium (hexane solution 1.50 M, 3.40 mL, 5.10 mmol) was added dropwise to solution of 4-bromotoluene (1.10 g, 6.43 mmol) in THF (10 ml) under a stream of argon at −70° C. or less and the mixture was stirred for 30 minutes. To the mixture was added dropwise a solution of 4-(4-methoxyphenyl)-1-(2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-3-on-5-yl)piperazine (1.00 g, 2.5 mmol) obtained in Reference Example 13 in THF (3 ml) at −70° C. or less and the mixture was allowed to warm to 0° C. After stirring under ice cooling for 30 minutes, the resulting mixture was poured into water and extracted with ethyl acetate. The organic extract was washed with water and saturated aqueous sodium chloride, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified with silica gel column chromatography (hexane/ethyl acetate=5/1) to obtain 1.11 g (yield 90%) of the title compound via recrystallization (ethyl acetate-hexane). mp. 145–147° C.

reactant | n-Butyllithium | 5.10 mmol, 1.50 M, 3.40 mL | C(CCC)[Li]
reactant | 4-bromotoluene | 6.43 mmol, 1.10 g | BrC1=CC=C(C=C1)C | C7H7Br
reactant | 4-(4-methoxyphenyl)-1-(2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-3-on-5-yl)piperazine | 2.5 mmol, 1.00 g | COC1=CC=C(C=C1)N1CCN(CC1)C=1C(=C(C2=C(C(C(O2)(C)C)=O)C1C)C)C | C24H30N2O3
reactant | water | O | H2O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 3 ml | C1CCOC1 | C4H8O
product | 1-(3-hydroxy-2,2,4,6,7-pentamethyl-3-(4-methylphenyl)-2,3-dihydro-1-benzofuran-5-yl)-4-(4-methoxyphenyl)piperazine | 1.11 g, yield 90% | OC1(C(OC2=C1C(=C(C(=C2C)C)N2CCN(CC2)C2=CC=C(C=C2)OC)C)(C)C)C2=CC=C(C=C2)C | C31H38N2O3
